US07625914B2
In a manner similar to that of Example 16(e), starting with 0.1 g (0.3 mmol) of methyl 2(S)-ethoxy-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate and 40 μl (0.33 mmol) of butanoyl chloride, 0.12 g (75%) of methyl 3-(4-{5-[(butyrylmethylamino)methyl]thiophen-3-yl}phenyl)-2(S)-ethoxypropanoate is obtained.

reactant | methyl 2(S)-ethoxy-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate | 0.3 mmol, 0.1 g | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CSC(=C1)CNC | C18H23NO3S
reactant | butanoyl chloride | 0.33 mmol, 40 μl | C(CCC)(=O)Cl | C4H7ClO
product | methyl 3-(4-{5-[(butyrylmethylamino)methyl]thiophen-3-yl}phenyl)-2(S)-ethoxypropanoate | 0.12 g, 75% | C(CCC)(=O)CNCC1=CC(=CS1)C1=CC=C(C=C1)C[C@@H](C(=O)OC)OCC | C22H29NO4S
